US08110585B2
methyl 3-[(tert-butylthio)diazenyl]-6-fluoro-2-methylbenzoate
To a solution of methyl 3-amino-6-fluoro-2-methylbenzoate (12.0 g, 65.5 mmol) in hydrochloric acid (6 N, 200 mL) was added a solution of sodium nitrite (4.97 g, 72.1 mmol) in water (10 mL) at 0° C., and the mixture was stirred for 2 hr. An aqueous potassium acetate solution (30%) was added to the reaction solution at 0° C. to adjust the reaction solution to pH 4, and a solution of 2-methylpropane-2-thiol (8.12 mL, 72.1 mmol) in ethanol (10 mL) was added. The reaction solution was stirred at room temperature for 12 hr, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give the title compound (18.5 g, yield 99%) as a crudely purified product.

reactant | methyl 3-amino-6-fluoro-2-methylbenzoate | 65.5 mmol, 12.0 g | NC=1C(=C(C(=O)OC)C(=CC1)F)C | C9H10FNO2
reactant | sodium nitrite | 72.1 mmol, 4.97 g | N(=O)[O-].[Na+]
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | 2-methylpropane-2-thiol | 72.1 mmol, 8.12 mL | CC(C)(C)S | C4H10S
solvent | hydrochloric acid | 6 N, 200 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | methyl 3-[(tert-butylthio)diazenyl]-6-fluoro-2-methylbenzoate | 18.5 g, yield 99% | C(C)(C)(C)SN=NC=1C(=C(C(=O)OC)C(=CC1)F)C | C13H17FN2O2S
